US07576108B2
c: (E)-2-[4-(3-Benzyloxy-propane-1-sulfonyl)-phenyl] -3-cyclopentyl-prop-2-en-1-ol
Following the method of example 54e, reaction of (E)-2-[4-(3-benzyloxy-propane-1-sulfonyl)-phenyl]-3-cyclopentyl-acrylic acid ethyl ester (2.05 g, 4.49 mmol) with DIBAL in toluene (9.43 mL, 11.2 mmol) and 1 h at ambient temperature gives the title compound as an oil (1.45 g). MS (m/e): 415 (M+H).

reactant | (E)-2-[4-(3-benzyloxy-propane-1-sulfonyl)-phenyl]-3-cyclopentyl-acrylic acid ethyl ester | 4.49 mmol, 2.05 g | C(C)OC(\C(=C\C1CCCC1)\C1=CC=C(C=C1)S(=O)(=O)CCCOCC1=CC=CC=C1)=O | C26H32O5S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 11.2 mmol, 9.43 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[4-(3-Benzyloxy-propane-1-sulfonyl)-phenyl] -3-cyclopentyl-prop-2-en-1-ol | 1.45 g | C(C1=CC=CC=C1)OCCCS(=O)(=O)C1=CC=C(C=C1)/C(/CO)=C\C1CCCC1 | C24H30O4S
